US03974283
In 20 ml. of anhydrous tetrahydrofuran there is dissolved 5.0 grams of 4-t-butyl-1,2,3,6-tetrahydropyridine, and with stirring there is added 3.5 grams of allylisothiocyanate in 10 ml of anhydrous tetrahydrofuran. The reaction mixture is stirred for 24 hours at room temperature and the tetrahydrofuran is evaporated in vacuo. The resulting solid is dried at 50°C/20 mmHg. to remove any unreacted allylisothiocyanate to give N-allyl-4-t-butyl-1,2,3,6- -tetrahydro-1-pyridinethiocarboxamide.

reactant | 4-t-butyl-1,2,3,6-tetrahydropyridine | 5.0 grams | C(C)(C)(C)C=1CCNCC1 | C9H17N
reactant | allylisothiocyanate | 3.5 grams | C(C=C)N=C=S | C4H5NS
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-allyl-4-t-butyl-1,2,3,6- -tetrahydro-1-pyridinethiocarboxamide | C(C=C)NC(=S)N1CCC(=CC1)C(C)(C)C | C13H22N2S
